US07312225B2
1j) Production of 3-Amino-N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-5-nitro-benzenesulfonamide
A solution of 602 mg (1.28 mmol) of N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3,5-dinitro-benzenesulfonamide in 10 ml of THF is mixed at room temperature with 4.2 ml of a 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid. After 2 hours, it is mixed again with 3.0 ml of a 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid, and it is stirred for another 16 hours. The batch is made basic with 2N NaOH solution and filtered. The filter cake is rewashed with THF and water. The THF of the filtrate is drawn off on a rotary evaporator, and the residue is extracted from ethyl acetate. The combined organic phases are filtered through a Whatman filter and concentrated by evaporation. 440 mg (0.95 mmol, corresponding to 74% of theory) of the product is obtained.

reactant | N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3,5-dinitro-benzenesulfonamide | 1.28 mmol, 602 mg | BrC=1C(=NC(=NC1)Cl)NCCCNS(=O)(=O)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H12BrClN6O6S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 3-Amino-N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-5-nitro-benzenesulfonamide | NC=1C=C(C=C(C1)[N+](=O)[O-])S(=O)(=O)NCCCNC1=NC(=NC=C1Br)Cl | C13H14BrClN6O4S
